US07968573B2
A mixture of 0.50 g of 6-chloro-2-[1-(3-chloro-2-pyridinyl)-1H-pyrazol-5-yl]-8-methyl-4H-3,1-benzoxazine-4-one, 0.13 ml of hydrazine monohydrate and 20 ml of tetrahydrofuran was stirred at room temperature for 4 hours. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate two times. The organic layers were combined, washed with an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue was washed with a mixed solvent of ethyl acetate and hexane to obtain 0.44 g of N-[4-chloro-2-(hydrazinocarbonyl)-6-methylphenyl]-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxamide of the formula:

reactant | 6-chloro-2-[1-(3-chloro-2-pyridinyl)-1H-pyrazol-5-yl]-8-methyl-4H-3,1-benzoxazine-4-one | 0.50 g | ClC=1C=C(C2=C(C(OC(=N2)C2=CC=NN2C2=NC=CC=C2Cl)=O)C1)C | C17H10Cl2N4O2
reactant | hydrazine monohydrate | 0.13 ml | O.NN
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | N-[4-chloro-2-(hydrazinocarbonyl)-6-methylphenyl]-1-(3-chloro-2-pyridinyl)-1H-pyrazole-5-carboxamide | 0.44 g | ClC1=CC(=C(C(=C1)C)NC(=O)C1=CC=NN1C1=NC=CC=C1Cl)C(=O)NN | C17H14Cl2N6O2
